US08633212B2
A 10 mL microwave tube was charged with 6′-bromo-5,7-dihydrospiro[cyclopenta[d]pyridazine-6,2′-inden]-1′(3′H)-one (0.0600 g, 0.19 mmol), 3-cyanophenylboronic acid (0.1221 g, 0.83 mmol), Cs2CO3 (0.2822 g, 0.87 mmol), 1,4-dioxane (4 mL), water (1 mL), and PdCl2(PPh3)2 (0.0360 g, 0.05 mmol). The tube was heated in a CEM microwave reactor at 110° C. for 30 min. The reaction mixture was diluted with CH2Cl2 and dried over Na2SO4. After the solvent was evaporated under reduced pressure, the residue was purified by reversed-phase HPLC (SunFire™ Prep C18 OBD™ 5 μm 19×50 mm column, 10%→90% MeOH/H2O, 0.1% CF3COOH over 8 min and then 90% MeOH/H2O, 0.1% CF3COOH over 2 min, flow rate 20 mL/min) to afford 0.0386 g (60%) of 3-(1′-oxo-1′,3′,5,7-tetrahydrospiro[cyclopenta[d]pyridazine-6,2′-inden]-6′-yl)benzonitrile. LC-MS tR=1.43 min in 3 min chromatography, m/z 338 (MH+).

reactant | 6′-bromo-5,7-dihydrospiro[cyclopenta[d]pyridazine-6,2′-inden]-1′(3′H)-one | 0.19 mmol, 0.0600 g | BrC1=CC=C2CC3(C(C2=C1)=O)CC1=C(C=NN=C1)C3 | C15H11BrN2O
reactant | 3-cyanophenylboronic acid | 0.83 mmol, 0.1221 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Cs2CO3 | 0.87 mmol, 0.2822 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(PPh3)2 | 0.05 mmol, 0.0360 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 1 mL | O | H2O
product | 3-(1′-oxo-1′,3′,5,7-tetrahydrospiro[cyclopenta[d]pyridazine-6,2′-inden]-6′-yl)benzonitrile | 0.0386 g, 60% | O=C1C2(CC3=CC=C(C=C13)C=1C=C(C#N)C=CC1)CC1=C(C=NN=C1)C2 | C22H15N3O
